** sch_path: /foss/designs/modulo1/lab02/xschem/nmos_gmid.sch
**.subckt nmos_gmid
XM1 net3 net1 GND GND sky130_fd_pr__nfet_01v8 L=L_val W=W_val nf=1 ad='int((1 + 1)/2) * W_val / 1 * 0.29' as='int((1 + 2)/2) * W_val / 1 * 0.29'
+ pd='2*int((1 + 1)/2) * (W_val / 1 + 0.29)' ps='2*int((1 + 2)/2) * (W_val / 1 + 0.29)' nrd='0.29 / W_val ' nrs='0.29 / W_val ' sa=0
+ sb=0 sd=0 mult=1 m=1
VGS1 net1 GND 0
VDS1 net2 GND 0.9
Vmeas1 net2 net3 0
.save i(vmeas1)
**** begin user architecture code

** opencircuitdesign pdks install
.lib /foss/pdks/sky130A/libs.tech/combined/sky130.lib.spice tt


.options savecurrents
.param W_val=10 L_val=0.15
.save all

.control
  foreach L_iter 0.15 0.18 0.25 0.5 1.0
    alterparam L_val=$L_iter
    reset

    echo =========================================
    echo Simulating L = $L_iter um
    echo =========================================

    save @m.xm1.msky130_fd_pr__nfet_01v8[gm]
    save @m.xm1.msky130_fd_pr__nfet_01v8[gds]
    save @m.xm1.msky130_fd_pr__nfet_01v8[cgg]
    save @m.xm1.msky130_fd_pr__nfet_01v8[vdsat]

    dc VGS1 0 1.8 0.005
    remzerovec

    let Id = -i(VDS1)
    let gm = @m.xm1.msky130_fd_pr__nfet_01v8[gm]
    let IdW = Id / 10e-6
    let gmid = gm / Id
    let gds = @m.xm1.msky130_fd_pr__nfet_01v8[gds]
    let gds_norm = gds / Id
    let fT_GHz = @m.xm1.msky130_fd_pr__nfet_01v8[gm] / (2 * 3.14159265 * @m.xm1.msky130_fd_pr__nfet_01v8[cgg]) / 1e9
    let Vdsat = @m.xm1.msky130_fd_pr__nfet_01v8[vdsat]

    let L_nm = $L_iter * 1000
    set fname = nmos_gmid_L{$&L_nm}nm.txt
    wrdata $fname IdW gmid gds_norm fT_GHz Vdsat

  end
.endc

**** end user architecture code
**.ends
.GLOBAL GND
.end
